US04559333
Add 1.0 gm chloroacetone and a solution of 0.84 gm NaHCO3 in 10 ml water to a solution of 1.1 gm semicarbazide hydrochloride in 25 ml THF and stir overnight. Two layers form. Separate the top layer and concentrate to obtain an off-white solid, 2-semicarbazono-1-chloropropane.

reactant | chloroacetone | 1.0 gm | ClCC(C)=O | C3H5ClO
reactant | NaHCO3 | 0.84 gm | C(=O)(O)[O-].[Na+]
reactant | semicarbazide hydrochloride | 1.1 gm | Cl.NNC(=O)N
solvent | water | 10 ml | O | H2O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 2-semicarbazono-1-chloropropane | N(NC(=O)N)=C(CCl)C | C4H8ClN3O
